US08609656B2
N-(9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-2-methylaminoacetamide hydrochloride (Table 1, Compound No. 98)
The titled compound can be synthesized from 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride and tert-butoxycarbonyl-sarcosine by using the same method as in Example 96.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | tert-butoxycarbonyl-sarcosine | C(C)(C)(C)OC(=O)N(C)CC(=O)O | C8H15NO4
product | N-(9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-2-methylaminoacetamide hydrochloride | Cl.ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NC(CNC)=O)=O)C(F)(F)F | InChI=1S/C22H18ClF3N8O2.ClH/c1-27-9-17(35)33-19-18-20(29-10-28-19)34(11-30-18)14-5-2-12(3-6-14)31-21(36)32-13-4-7-16(23)15(8-13)22(24,25)26;/h2-8,10-11,27H,9H2,1H3,(H2,31,32,36)(H,28,29,33,35);1H
